US07214802B2
3-[4-(2-Benzenesulfonyl-3-methyl-3H-imidazol-4-yl)-[1,2,3]triazol-1-yl]-N-(5-tert-butyl-3-methanesulfonylamino-2-methoxy-phenyl)-4-methyl-benzamide
Example 36 was prepared from 3-azido-N-(5-tert-butyl-3-methanesulfonylamino-2-methoxy-phenyl)-4-methyl-benzamide and 2-benzenesulfonyl-5-ethynyl-1-methyl-1H-imidazole in the same manner as Example 15. ESI MS m/z 678 [C32H35N7O6S+H]+.

reactant | 3-azido-N-(5-tert-butyl-3-methanesulfonylamino-2-methoxy-phenyl)-4-methyl-benzamide | N(=[N+]=[N-])C=1C=C(C(=O)NC2=C(C(=CC(=C2)C(C)(C)C)NS(=O)(=O)C)OC)C=CC1C | C20H25N5O4S
reactant | 2-benzenesulfonyl-5-ethynyl-1-methyl-1H-imidazole | C1(=CC=CC=C1)S(=O)(=O)C=1N(C(=CN1)C#C)C | C12H10N2O2S
product | 3-[4-(2-Benzenesulfonyl-3-methyl-3H-imidazol-4-yl)-[1,2,3]triazol-1-yl]-N-(5-tert-butyl-3-methanesulfonylamino-2-methoxy-phenyl)-4-methyl-benzamide | C1(=CC=CC=C1)S(=O)(=O)C1=NC=C(N1C)C=1N=NN(C1)C=1C=C(C(=O)NC2=C(C(=CC(=C2)C(C)(C)C)NS(=O)(=O)C)OC)C=CC1C | C32H35N7O6S2
